US03991070
EXAMPLE 13 1,8-Dichloro-6-phenyl-4H-s-triazolo[4,3-a][1,4]-benzodiazepine
The 5-chloro-2-(3-chloro-5-phthalimidomethyl-4H-1,2,4-triazol-4-yl)benzophenone is reacted with hydrazine to form the titled compound.

reactant | 5-chloro-2-(3-chloro-5-phthalimidomethyl-4H-1,2,4-triazol-4-yl)benzophenone | ClC=1C=CC(=C(C(=O)C2=CC=CC=C2)C1)N1C(=NN=C1CN1C(C=2C(C1=O)=CC=CC2)=O)Cl | C24H14Cl2N4O3
reactant | hydrazine | NN | H4N2
product | 1,8-Dichloro-6-phenyl-4H-s-triazolo[4,3-a][1,4]-benzodiazepine | ClC1=NN=C2N1C1=C(C(=NC2)C2=CC=CC=C2)C=C(C=C1)Cl | C16H10Cl2N4
